US04640915
A solution of N,N-diisopropyl-N-ethylamine (0.135 ml) in methylene chloride (1.21 ml) was added to a solution of 4-nitrobenzyl (2R, 5R, 6R)-3,7-dioxo-6-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-1-azabicyclo[3.2.0]heptane-2-carboxylate (350 mg) and 4-(N,N-dimethylamino)pyridine (7.9 mg) in methylene chloride (17.5 ml) at -30° C. A solution of trifluoromethanesulfonic anhydride (0.114 ml) in methylene chloride (1.02 ml) was added to the mixture and stirring was continued at the same temperature for 30 minutes. A solution of N,N-diisopropyl-N-ethylamine (0.563 ml) in methylene chloride (5.06 ml) and 5-methyl-1,3,4-oxadiazole-2-thiol (225 mg) were then added thereto, and the reaction mixture was stirred at -30° C. for 30 minutes and allowed to warm to ambient temperature over a period of an hour. After stirring at ambient temperature for 4 hours, the mixture was allowed to stand at 5° C. for 14 hours. After the solvent was removed by evaporation, the residue was dissolved in ethyl acetate (20 ml). The organic solution was washed in turn with water and a saturated aqueous sodium chloride, dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on deactivated silica gel with 10% water (7 g), eluting with a mixture of benzene and acetone (20:1 to 10:1) to give 4-nitrobenzyl (5R, 6R)-6-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-3-(5-methyl-1,3,4-oxadiazol-2-ylthio)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (290 mg) as an oil.

reactant | N,N-diisopropyl-N-ethylamine | 0.135 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-nitrobenzyl (2R, 5R, 6R)-3,7-dioxo-6-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-1-azabicyclo[3.2.0]heptane-2-carboxylate | 350 mg | O=C1[C@@H](N2C([C@H]([C@H]2C1)C(C)(OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C25H23N3O11
reactant | trifluoromethanesulfonic anhydride | 0.114 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | N,N-diisopropyl-N-ethylamine | 0.563 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 5-methyl-1,3,4-oxadiazole-2-thiol | 225 mg | CC1=NN=C(O1)S | C3H4N2OS
solvent | methylene chloride | 1.21 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-(N,N-dimethylamino)pyridine | 7.9 mg | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | methylene chloride | 17.5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1.02 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5.06 ml | C(Cl)Cl | CH2Cl2
product | 4-nitrobenzyl (5R, 6R)-6-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-3-(5-methyl-1,3,4-oxadiazol-2-ylthio)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 290 mg | CC(C)(OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])[C@H]1[C@H]2CC(=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])SC=1OC(=NN1)C | C28H25N5O11S
